US06541646B2
A solution of raw 3,3-dimethyl-2-methoxy-2-(4′-methylsulphonylphenyl)oxirane (3.6 g, 14.1 mmol) and 2-(cyclopropylmethoxy)acetic acid (2.17 g, 16.7 mmol, 1.2 equiv) in anhydrous tert-butylmethylether (10 ml) is stirred at room temperature for 2 days. The reaction mixture is then concentrated in order to supply a yellow solid (5.24 g) containing 65% p/p of [2-methyl-1-(4′-methylsulphonylphenyl)-1-oxo-prop-2-yl] 2-(cyclopropylmethyoxy)acetate. The concatenated yield from the 2-methyl-1-(4′-methylthiophenyl)propan-1-one is 46% pure/pure.

reactant | 3,3-dimethyl-2-methoxy-2-(4′-methylsulphonylphenyl)oxirane | 14.1 mmol, 3.6 g | CC1(C(O1)(C1=CC=C(C=C1)S(=O)(=O)C)OC)C | C12H16O4S
reactant | 2-(cyclopropylmethoxy)acetic acid | 16.7 mmol, 2.17 g, 1.2 equiv | C1(CC1)COCC(=O)O | C6H10O3
solvent | tert-butylmethylether | 10 ml | C(C)(C)(C)OC | C5H12O
product | 2-methyl-1-(4′-methylthiophenyl)propan-1-one | CC(C(=O)C1=CC=C(C=C1)SC)C | C11H14OS
